US06953790B2
Step D. Benzyl (2S,6R)-4-(cyclopropylmethyl)-5-oxo-2-phenyl-1,4-oxazepan-6-ylcarbamate
Trifluoroacetic acid (5.0 mL) was added to a solution N-[(benzyloxy)carbonyl]-O-{(1S)-2-[(tert-butoxycarbonyl)(cyclopropylmethyl)amino]-1-phenylethyl}-D-serine (1.27 g, 2.47 mmol) in dichloromethane (15 mL). After 2 h, the mixture was concentrated and azeotroped with toluene (3×) to give the crude amine. Diphenylphosphoryl azide (1.07 ml, 4.95 mmol) was added to a solution of the crude amine and 4-methylmorpholine (0.82 mL, 7.41 mmol) in N,N-dimethylformamide (100 mL). After 18 h, the mixture was concentrated and water was added. The mixture was extracted with ethyl acetate, and the organic layer was washed with water (2×) and saturated brine, dried over magnesium sulfate, filtered, and concentrated. Purification by silica gel chromatography (5% ethyl acetate/hexanes→50% ethyl acetate/hexanes) gave the title compound (0.426 g). MS 395 (M+1).

reactant | Trifluoroacetic acid | 5.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-[(benzyloxy)carbonyl]-O-{(1S)-2-[(tert-butoxycarbonyl)(cyclopropylmethyl)amino]-1-phenylethyl}-D-serine | 2.47 mmol, 1.27 g | C(C1=CC=CC=C1)OC(=O)N[C@H](CO[C@H](CN(CC1CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)C(=O)O | C28H36N2O7
reactant | Diphenylphosphoryl azide | 4.95 mmol, 1.07 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 4-methylmorpholine | 7.41 mmol, 0.82 mL | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | Benzyl (2S,6R)-4-(cyclopropylmethyl)-5-oxo-2-phenyl-1,4-oxazepan-6-ylcarbamate | 0.426 g | C1(CC1)CN1C[C@@H](OC[C@H](C1=O)NC(OCC1=CC=CC=C1)=O)C1=CC=CC=C1 | C23H26N2O4
